US07279469B2
4-[5-Amino-3-(2-bromo-3,5-dimethoxy-4-methyl-phenylamino)-[1,2,4]triazol-1-yl]-benzonitrile.
To a suspension of 4-[5-Amino-3-(3,5-dimethoxy-4-methyl-phenylamino)-[1,2,4]triazol-1-yl]-benzonitrile (155 mg, 0.44 mmol) in CCl4 (10 mL) and benzene (10 mL) was added N-bromosuccimide (100 mg, 0.56 mmol) and benzoyl peroxide (10 mg). The reaction mixture was refluxed for 16 h. Concentration. The residue was purified by HPLC to give the title compound (80 mg). FIA-MS: m/e=429.1 and 431.1 (M+H), 427.1 and 429.1 (M−H). Rt=3.89 min (Method A). 1H-NMR (500 MHz, DMSO(d6)): 7.95 (d, 2H), 7.82 (s, 1H), 7.80 (d, 2H), 7.37 (s, 1H), 6.88 (br. s, 2H), 3.80 (s, 3H), 3.69 (s, 3H), 2.08 (s, 3H).

reactant | 4-[5-Amino-3-(3,5-dimethoxy-4-methyl-phenylamino)-[1,2,4]triazol-1-yl]-benzonitrile | 0.44 mmol, 155 mg | NC1=NC(=NN1C1=CC=C(C#N)C=C1)NC1=CC(=C(C(=C1)OC)C)OC | C18H18N6O2
reactant | N-bromosuccimide | 0.56 mmol, 100 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 4-[5-Amino-3-(2-bromo-3,5-dimethoxy-4-methyl-phenylamino)-[1,2,4]triazol-1-yl]-benzonitrile | 80 mg | NC1=NC(=NN1C1=CC=C(C#N)C=C1)NC1=C(C(=C(C(=C1)OC)C)OC)Br | C18H17BrN6O2
